### PR TITLE
Prove that insertIntoCurrent and removeFromCurrent preserves well-formedness

### PR DESCRIPTION
**Pull request by math-fehr**
This proof required generalizing WellFormed to handle missing uses, so we did not have it before.

This will be useful to prove that `detachOpOperands` is correct.

### CODE REVIEW

File: Veir/Rewriter/LinkedList/WellFormed.lean [hunk 1]
```diff
@@ -221,6 +272,59 @@ theorem Region.wellFormed_OpOperandPtr_removeFromCurrent
     (RegionPtr.get! regionPtr (use.removeFromCurrent ctx useInBounds ctxInBounds)).WellFormed (use.removeFromCurrent ctx useInBounds ctxInBounds) regionPtr := by
   apply Region.WellFormed_unchanged (ctx := ctx) <;> grind
 
+
```
Comment (luisacicolini) [inline Veir/Rewriter/LinkedList/WellFormed.lean]:
```suggestion
```
extra newline

File: Veir/Rewriter/LinkedList/WellFormed.lean [hunk 2]
```diff
@@ -221,6 +272,59 @@ theorem Region.wellFormed_OpOperandPtr_removeFromCurrent
...
+    have := hWF.operations opPtr (by grind)
+    grind [Operation.wellFormed_OpOperandPtr_removeFromCurrent]
+  · intros blockPtr blockPtrInBounds
+    have := hWF.blocks blockPtr (by grind)
+    grind [Block.wellFormed_OpOperandPtr_removeFromCurrent]
+  · intros regionPtr regionPtrInBounds
+    have := hWF.regions regionPtr (by grind)
+    grind [Region.wellFormed_OpOperandPtr_removeFromCurrent]
+
+
```
Comment (luisacicolini) [inline Veir/Rewriter/LinkedList/WellFormed.lean]:
```suggestion
```
extra newline
